US07220856B2
Preparation of Ethyl 7-chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline-2-carboxylate
To a solution of ethyl 4-[4-(tert-butoxycarbonyl)piperazin-1-yl]-7-chloroquinoline-2-carboxylate (1.0 g, 2.4 mmol) in CH2Cl2 (5 mL) is added trifluoroacetic acid (5 mL). After 1 h at room temp., the reaction mixture is adjusted to pH 10–11 with 10% aq. NaOH and extracted with EtOAc. The combined extracts are dried (Na2SO4) and concentrated. The residue is dissolved in CH2Cl2 (70 mL) and treated with 4-fluorophenyl isocyanate (0.32 mL, 2.8 mmol) for 15 h at room temp. The reaction mixture is washed with water and brine, dried (Na2SO4), and concentrated. The residue is purified by column chromatography with CH2Cl2-MeOH yielding the title product.

reactant | ethyl 4-[4-(tert-butoxycarbonyl)piperazin-1-yl]-7-chloroquinoline-2-carboxylate | 2.4 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=NC2=CC(=CC=C12)Cl)C(=O)OCC | C21H26ClN3O4
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | [OH-].[Na+]
reactant | 4-fluorophenyl isocyanate | 2.8 mmol, 0.32 mL | FC1=CC=C(C=C1)N=C=O | C7H4FNO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 7-chloro-4-[4-(4-fluorophenylaminocarbonyl)piperazin-1-yl]quinoline-2-carboxylate | ClC1=CC=C2C(=CC(=NC2=C1)C(=O)OCC)N1CCN(CC1)C(=O)NC1=CC=C(C=C1)F | C23H22ClFN4O3
